Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chronic Abdominal Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a past medical history of chondroscarcoma s/p L AKA and 
chemotherapy with gemcitabine and taxotere c/b neuropathy , who 
presents today for evaluation of multiple abdominal complaints.

For full history please see full GI note ___. In brief his 
symotms first began in ___ and have been waxing and waning 
since that time. He described severe band like pain over his 
abdomen
complicated by severe constipation then followed by diarrhea. 
His symptoms improve with bowel movements. He has been seen by 
several gastroenterologists and has tried multiple different 
therapies including fiber, FOODMAP diet, Reglan,  domperidone, 
Linzess, Trulance, Bentyl, Rifaximin and VSL3. He has also tried 
multiple laxatives including lactulose, mag citrate, and 
MiraLAX.

For the last ___ year he feels like symptoms have been much worse. 
He also now describes attacks where he has chest pain, shortness 
of breath and high blood pressure. During these episodes he 
states that he feels like he is blacked out and doesn't remember 
what is happening although per his family he is awake. He has 
been hospitalized several times for this. All cardiac workup has 
been negative and he has been diagnosed with severe anxiety. For 
this anxiety he has been prescribed Ativan 1 mg q6hrs. He states 
although he tries to take only 4 a day he often takes more esp 
when he feels his physical symptoms are at their worst.  

He was seen by GI who recommended direct admit for further care. 
He declined this initially. Yesterday he felt he was going to 
pass out which prompted him to come to the Ed. 

He states his family would like him admitted for a month until 
he is completely better. His ongoing medical issues have 
stressed them to the point that they feel they cannot care for 
him. 

In the ED vitals were T 98.8, HR 102, BP 184/102, RR14, O2Sat 
96% RA. He underwent a CT abdomen without any abnormality seen. 
Labs were drawn and showed normal troponin, normal LFTs, normal 
CBC. He was given Ativan, dicyclomine, rifaximine. He was 
admitted to medicine for GI and psychiatric care. 

On arrival to the floor he is very tangential. He states he has 
not had a bowel movement for three days. His pain is stable. He 
feels his anxiety is likely out of control and agrees this is
likely connected in some way to his symptoms. He becomes more 
anxious as we talk and states he feels like he is going to have 
an abdominal attack. He is anxious to see GI. 
.
Review of Systems:  A 10-point review of systems was performed 
and negative in detail except as noted in the HPI.

 
Past Medical History:
1.  Chondrosarcoma s/o amputation and chemo with gemcitabine and
taxotere 
2.  Peripheral neuropathy
3.  Hypertension
4.  IBS
5.  Gastroparesis
6.  Anxiety/depression
                                    
Past Surgical History: 
1.  Left AKA 
2.  Hiatal hernia repair   
 
Social History:
___
Family History:
No family history of any IBD, GI cancers  
 
Physical Exam:
ADMISSION EXAM:
VS: ___ 0733 Temp: 98.1 PO BP: 105/59 R Lying HR: 72 RR: 18
O2 sat: 96% O2 delivery: Ra 
___ Appearance: very anxious appearing, laying covered by
many blankets 
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, mildly distended 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  
GU: no catheter in place

DISCHARGE EXAM:
VS: 24 HR Data (last updated ___ @ 1113)
    Temp: 97.9 (Tm 98.2), BP: 122/82 (107-138/69-93), HR: 73
(65-96), RR: 18, O2 sat: 95% (95-98), O2 delivery: Ra  
4 BM's recorded yesterday
GEN: Alert, NAD
CV: RRR no m/r/g
RESP: CTA B, breathing appears comfortably
GI: soft NT/ND +BS no rebound or guarding.  surgical scar noted
NEURO: Nonfocal
PSYCH: Calm, appropriate today
 
Pertinent Results:
ADMISSION LABS:
___ 12:07AM BLOOD WBC-8.8 RBC-4.82 Hgb-14.2 Hct-39.9* 
MCV-83 MCH-29.5 MCHC-35.6 RDW-12.6 RDWSD-38.0 Plt ___
___ 12:07AM BLOOD Neuts-74.1* Lymphs-17.6* Monos-7.3 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-6.53* AbsLymp-1.55 
AbsMono-0.64 AbsEos-0.03* AbsBaso-0.05
___ 12:07AM BLOOD Glucose-115* UreaN-4* Creat-0.6 Na-139 
K-4.0 Cl-97 HCO3-27 AnGap-15
___ 12:07AM BLOOD ALT-10 AST-12 AlkPhos-88 TotBili-0.5
___ 12:07AM BLOOD Lipase-15
___ 12:07AM BLOOD cTropnT-<0.01
___ 12:07AM BLOOD Albumin-4.4
___ 12:40AM URINE Color-Straw Appear-Clear Sp ___
___ 12:40AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG

CT A/P - 
IMPRESSION: 
No acute abnormality within the imaged abdomen and pelvis.
 
Brief Hospital Course:
Mr. ___ is a ___ with a past medical history of 
chondroscarcoma s/p L AKA and chemotherapy with gemcitabine and 
taxotere c/b neuropathy, who presents for evaluation of acute on 
chronic GI dysfunction (constipation) with severe anxiety

#Chronic Abdominal Pain 
#Constipation  
#Bloating 
#IBS
Ongoing for several years at this time, most likely IBS with 
constipation. Had a CT scan which did not show any 
abnormalities.  In past, he states on colonoscopy he had a 
tortuous colon, and has reportedly had extensive work up in the 
past, including an emptying study at ___.  His GI 
dysfunction is likely made worse by his significant anxiety and 
compulsions, with significant fear of constipation, abnormal 
BMs, and ___ "fear of not waking up.".  During admission, 
stool softeners, enema, and sleep were optimized, and this 
seemingly helped.  He was continued on dicyclomine and 
rifaximin. He will complete 10 day course of rifaximin on ___. 
Hospitalist met with him and his primary gastroenterologist to 
review his clinical course and determine a plan going forward:
- medications as above
- GI follow up for anorectal manometry
- trial of sleep medication and recommendation for sleep study
- psychiatry follow up
- control over daily laxatives, trial and error

#Anxiety:
#OCD:
These are likely drivers of his exacerbated symptoms.  He does 
follow up with a therapist but does not follow with a 
psychiatrist regularly.  Psychiatry was consulted here and he 
was initiated on Risperdal in addition to his Ativan.  We 
discussed in detail the importance of psychiatry referral for 
ongoing care. He will f/u with his PCP regarding this.

#Hypertension:
- Continued home lisinopril, HCTZ

#Neuropathy:
- No report of symptoms currently

TRANSITIONAL ISSUES:
- Pt will complete 10 day course of rifaximin on ___. Please 
refer to d/c med list for rest of patient's discharge 
medications.
- Pt will need close f/u with GI
- Pt will need outpt anorectal manometry (GI to order).
- Pt was started on ___ as above, he will need psych 
referral.
- Pt would benefit from outpt sleep study given signifcant 
reports of insomnia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DICYCLOMine 10 mg PO QID 
2. Rifaximin 550 mg PO TID 
3. LORazepam 1 mg PO Q6H:PRN anxiety  
4. Linzess (linaCLOtide) 145 mcg oral DAILY 
5. Lisinopril 20 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Simethicone 40-80 mg PO QID:PRN bloating  
8. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral Q8H:PRN 
9. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Bisacodyl ___AILY:PRN constipation  
RX *bisacodyl 10 mg 1 suppository(s) rectally daily as needed 
Disp #*50 Suppository Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Ramelteon 8 mg PO QHS:PRN insomnia 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth at night as 
needed Disp #*30 Tablet Refills:*0 
4.  RisperiDONE 0.5 mg PO BID 
RX *risperidone 0.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  DICYCLOMine 10 mg PO QID 
RX *dicyclomine 10 mg 1 capsule(s) by mouth four times a day 
Disp #*120 Capsule Refills:*0 
6.  Excedrin Migraine (aspirin-acetaminophen-caffeine) unknown  
oral Q8H:PRN headache  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Linzess (linaCLOtide) 145 mcg oral DAILY  
9.  Lisinopril 20 mg PO DAILY  
10.  LORazepam 1 mg PO Q6H:PRN anxiety   
11.  Polyethylene Glycol 17 g PO DAILY  
12.  Rifaximin 550 mg PO TID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth three times 
a day Disp #*14 Tablet Refills:*0 
13.  Simethicone 40-80 mg PO QID:PRN bloating   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic constipation
IBS
Neuropathy
Anxiety
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for evaluation of your ongoing GI symptoms and 
constipation.  You were seen by your gastroenterologist here and 
the psychiatry team.  Your symptoms are likely a result of poor 
motility of your GI tract in addition to significant anxiety and 
fear of abnormal bowel movements.  You also do not sleep well 
and a sleep evaluation will be a good idea after you leave the 
hospital.  We have started you on new medications which may help 
with your symptoms, both GI and anxiety related symptoms.  
Please follow up closely with your GI doctor and PCP.  Please 
see your therapist.  We also recommend follow up again with a 
psychiatrist and see a sleep specialist for further care
 
Followup Instructions:
___